US04962110
6-[4-(1,4-Dihydro-4-oxo-2-quinazolinylamino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone
A stirred mixture of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone (2 g) and 2-methylthio-4-quinazolinone (2.98 g) in dry pyridine (15 ml) was heated under reflux for 90 hours. The mixture was filtered and the solid digested with boiling acetonitrite to leave a solid (0.66 g), m.p. 313°-319° C. The combined filtrates were evaporated and the residue was heated with pyridine (3 ml) in the absence of a condenser, in an oil bath at 160° C. for 3 hours. The residue was digested with acetonitrile as before to give the title compound, (0.55 g), m.p. 312°-315° C.

reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 2 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | 2-methylthio-4-quinazolinone | 2.98 g | CSC1=NC2=CC=CC=C2C(N1)=O | C9H8N2OS
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 6-[4-(1,4-Dihydro-4-oxo-2-quinazolinylamino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 0.66 g | O=C1N=C(NC2=CC=CC=C12)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C19H17N5O2
